US07994163B2
Dissolve 3-tert-butoxycarbonyl-7-chloro-6-(2-methyl-3H-imidazol-4-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (306 mg, 0.602 mmol) in methanol (20 mL) and bubble the resulting solution with hydrogen chloride gas for 5 min. Cap the flask and stir at room temperature overnight. Concentrate the mixture in vacuo. Purify the crude product by chromatography on silica gel (40 g) eluting with a step gradient of DCM/(chloroform:methanol:concentrated NH4OH) [100:0 (5 min), 19:1 (5 min), 9:1 (5 min), 4:1 (5 min), 3:2 (5 min), 1:1; flow rate: 28 mL/min] to provide 7-chloro-6-(2-methyl-3H-imidazol-4-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (193 mg, 100%). MS (ES+) m/z: 308 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-(2-methyl-3H-imidazol-4-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.602 mmol, 306 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CSC=2NC(=NC2)C | C20H26ClN3O2S
solvent | methanol | 20 mL | CO | CH4O
product | 7-chloro-6-(2-methyl-3H-imidazol-4-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 193 mg, 100% | ClC1=C(C2=C(CCNCC2)C=C1)CSC=1NC(=NC1)C | C15H18ClN3S
